US06645997B2
6-(4-(2-Propyl-4-phenoxyphenoxy)butoxy)-2-methyl-chromane-2-carboxylic acid
The title compound was prepared from ethyl 6-(4-(2-propyl-4-phenoxyphenoxy)butoxy)-chromane carboxylate following the procedures described in Example 2, Step A employing iodomethane instead of iodopropane, and subsequently the procedure in Example 1 Step C.

reactant | ethyl 6-(4-(2-propyl-4-phenoxyphenoxy)butoxy)-chromane carboxylate | C(CC)C1=C(OCCCCOC=2C=C3CCC(OC3=CC2)C(=O)OCC)C=CC(=C1)OC1=CC=CC=C1 | C31H36O6
reactant | iodomethane | IC | CH3I
product | 6-(4-(2-Propyl-4-phenoxyphenoxy)butoxy)-2-methyl-chromane-2-carboxylic acid | C(CC)C1=C(OCCCCOC=2C=C3CCC(OC3=CC2)(C(=O)O)C)C=CC(=C1)OC1=CC=CC=C1 | C30H34O6
